US08067362B2
Step 1: 4-(9-Methoxycarbonyl nonylsulfanyl)benzoic acid
4-Mercaptobenzoic acid (2.0 g, 13 mmol) was placed in THF (25 ml). DIEA (3.7 g, 28.5 mmol) was added followed by a solution of methyl 10-bromodecanoate (3.44 g, 13 mmol) in THF (10 ml). After 1 h the solvent was removed under vacuum to yield a slurry, which was stored at rt for 3 days. AcOEt (100 ml) and 1 N HCl (50 ml) were added, but the precipitate did not dissolve very well. Sat. NaCl was added and then methanol in order to aid phase separation. The aqueous phase was removed, and DCM was added to the organic phase, but the precipitates still did not dissolve. The organic phase was concentrated under vacuum and dried with toluene by adding and evaporating twice. Drying under vacuum yielded a white solid (4.4 g, quantitative yield).

reactant | 4-Mercaptobenzoic acid | 13 mmol, 2.0 g | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | DIEA | 28.5 mmol, 3.7 g | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 10-bromodecanoate | 13 mmol, 3.44 g | BrCCCCCCCCCC(=O)OC | C11H21BrO2
reactant | HCl | 1 N, 50 ml | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | AcOEt | 100 ml | CCOC(=O)C | C4H8O2
product | 4-(9-Methoxycarbonyl nonylsulfanyl)benzoic acid | 4.4 g, quantitative yield | COC(=O)CCCCCCCCCSC1=CC=C(C(=O)O)C=C1 | C18H26O4S
